US09079911B2
Intermediate 66: 2,5-Dichloro-4,6-dimethylpyrimidine
To 5-chloro-4,6-dimethylpyrimidin-2-ol (992 mg, 6.26 mmol) was added POCl3 (2.22 mL, 23.77 mmol) followed by Et2NPh (0.75 mL, 4.69 mmol) dropwise. The mixture was heated at 125° C. for 2 h. At approximately 2 h the reaction became homogeneous and was checked by HPLC and it showed all starting material had been consumed. The mixture was allowed to cool to room temperature and was then added dropwise to ice. After the ice had melted there was a white solid in a pink liquid. The aqueous layer was extracted with DCM and the combined organic layers were dried over Na2SO4, filtered and concentrated in vacuo. Chromatography (Hex to 10% EtOAc/Hex) afforded the desired product as a white solid (915 mg, 83%). 1H NMR (500 MHz, CDCl3): 2.57 (s, 6H).

reactant | 5-chloro-4,6-dimethylpyrimidin-2-ol | 6.26 mmol, 992 mg | ClC=1C(=NC(=NC1C)O)C | C6H7ClN2O
reactant | POCl3 | 23.77 mmol, 2.22 mL | O=P(Cl)(Cl)Cl | Cl3OP
reactant | Et2NPh | 4.69 mmol, 0.75 mL | N(CC)(CC)C1=CC=CC=C1 | C10H15N
product | 2,5-Dichloro-4,6-dimethylpyrimidine | 915 mg, 83% | ClC1=NC(=C(C(=N1)C)Cl)C | C6H6Cl2N2
